US05532255
1 g of ethyl 1-(3-(4-cyanophenyl)-2-oxo-5-oxazolidinylmethyl)-4-methanesulfonyloxypiperidine-4-acetate (obtainable from the 4-hydroxy compound (see Example 13) with methanesulfonyl chloride/pyridine) is dissolved in a 2% NH3 solution in 10 ml of a 1:1 mixture of ethanol and THF, and the solution is left to stand at 20° for 2 hours. The solution is concentrated by evaporation and subjected to conventional work-up to give ethyl 1-(3-(4-cyanophenyl)-2-oxo-5-oxazolidinylmethyl)-4-aminopiperidine-4-acetate, FAB 387.

reactant | ethyl 1-(3-(4-cyanophenyl)-2-oxo-5-oxazolidinylmethyl)-4-methanesulfonyloxypiperidine-4-acetate | 1 g | C(#N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)(CC(=O)OCC)OS(=O)(=O)C)=O | C21H27N3O7S
reactant | methanesulfonyl chloride pyridine | CS(=O)(=O)Cl.N1=CC=CC=C1
solvent | NH3 | N | H3N
solvent | ethanol | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 1-(3-(4-cyanophenyl)-2-oxo-5-oxazolidinylmethyl)-4-aminopiperidine-4-acetate | C(#N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)(CC(=O)OCC)N)=O | C20H26N4O4
